US04415572
2-Nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]benzaldehyde (4 g) was dissolved in 20 ml of pyridine followed by adding 2.1 g of malonic acid and 0.4 ml of piperidine, and the mixture was stirred at 80° C. for 4 hours. After evaporating pyridine and piperidine the reaction mixture was poured in a dilute aqueous hydrogen chloride solution and extracted with methylene chloride. After washing the methylene chloride layer with water the solvent was distilled off and methanol was added to the residue. After cooling, crystals which formed were collected by filtration to give 3.7 g of 2-nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-cinnamic acid, m.p. 197°-202° C.

reactant | 2-Nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]benzaldehyde | 4 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C20H21N3O6
reactant | malonic acid | 2.1 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.4 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-cinnamic acid | 3.7 g | [N+](=O)([O-])C1=C(C=CC(=O)O)C=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C22H23N3O7
